US06825208B2
6-(4-Hydroxy-3-methoxy-phenyl)-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinoline-2-carboxamidine.
4-amino-benzamidine mono HCl salt (17.2 mg, 0.1 mmole) was suspended in acetonitrile (1 mL). The suspension was treated with 4-acetoxy-3-methoxybenzaldehyde (19.0 mg, 0.1 mmole) and indene(11.6 mg, 0.1 mmole). Indium triflate (11.2 mg, 0.02 mmole) was added and the reaction was heated at 70° C. for 48 hours. To the above mixture was added 100 uL of ammonium hydroxide. After stirring at rt overnight, the desired product 6-(4-Hydroxy-3-methoxy-phenyl)-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinoline-2-carboxamidine was purified using reverse phase HPLC. Mass spectrum: 385(M+1).

reactant | 4-amino-benzamidine mono HCl salt | 0.1 mmole, 17.2 mg | Cl.NC1=CC=C(C(=N)N)C=C1
reactant | 4-acetoxy-3-methoxybenzaldehyde | 0.1 mmole, 19.0 mg | C(C)(=O)OC1=C(C=C(C=O)C=C1)OC | C10H10O4
reactant | indene | 0.1 mmole, 11.6 mg | C1C=CC2=CC=CC=C12 | C9H8
reactant | Indium triflate | 0.02 mmole, 11.2 mg | [O-]S(=O)(=O)C(F)(F)F.[In+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | ammonium hydroxide | 100 uL | [OH-].[NH4+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-(4-Hydroxy-3-methoxy-phenyl)-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinoline-2-carboxamidine | OC1=C(C=C(C=C1)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(=N)N)OC | C24H23N3O2
